US04873255
5-[4-(2-Methylchroman-2-ylmethoxy)benzyl]thiazolidine-2,4-dione
A mixture of 330 mg of ethyl 2-chloro-3-[4-(2-methylchroman-2-ylmethoxy)phenyl]propionate (prepared as described in Preparation 5), 100 mg of thiourea and 1 ml of sulfolane was heated at 130° C. for 5 hours. At the end of this time, 2 ml of ethylene glycol monomethyl ether and 1.5 ml of 2N aqueous hydrochloric acid were added to the reaction mixture, which was then heated under reflux for 4.5 hours. The reaction mixture was then poured into water and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resulting residue was subjected to silica gel column chromatography eluted with a 2:1 by volume mixture of hexane and ethyl acetate. The oily substance thereby obtained was washed with warm water and dried, to give 230 mg of the title compound as a pale yellow glass, softening at 42°-50° C.

reactant | ethyl 2-chloro-3-[4-(2-methylchroman-2-ylmethoxy)phenyl]propionate | 330 mg | ClC(C(=O)OCC)CC1=CC=C(C=C1)OCC1(OC2=CC=CC=C2CC1)C | C22H25ClO4
reactant | thiourea | 100 mg | NC(=S)N | CH4N2S
reactant | sulfolane | 1 ml | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | hydrochloric acid | 2N, 1.5 ml | Cl | ClH
solvent | water | O | H2O
solvent | ethylene glycol monomethyl ether | 2 ml | COCCO | C3H8O2
product | 5-[4-(2-Methylchroman-2-ylmethoxy)benzyl]thiazolidine-2,4-dione | 230 mg | CC1(OC2=CC=CC=C2CC1)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C21H21NO4S
